US07659268B2
To a solution of 2-bromo-3-methoxy-6-nitropyridine (2.0 g, 8.6 mmol) in ethanol (20 mL) was added SnCl2.2H2O (3.9 g, 17 mmol) at room temperature. The reaction was heated at reflux for 2H. After cooling to room temperature, the reaction mixture was poured into water (50 mL), basified to pH to 8 with saturated NaHCO3 and extracted with ethyl acetate (50×3 mL). The combined organic layers were dried over Na2SO4, evaporated in vacuo and purified by chromatography on silica gel (20% ethyl acetate in petroleum ether) to afford 6-bromo-5-methoxypyridin-2-amine (1.1 g, 65%). 1H-NMR (300 MHz, CDCl3) δ 7.09 (d, J=8.4, 1H), 6.43 (d, J=8.4, 1H), 4.27 (br s, 2H), 3.82 (s, 3H).

reactant | 2-bromo-3-methoxy-6-nitropyridine | 8.6 mmol, 2.0 g | BrC1=NC(=CC=C1OC)[N+](=O)[O-] | C6H5BrN2O3
reactant | SnCl2.2H2O | 17 mmol, 3.9 g | O.O.Cl[Sn]Cl
reactant | water | 50 mL | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 6-bromo-5-methoxypyridin-2-amine | 1.1 g, 65% | BrC1=C(C=CC(=N1)N)OC | C6H7BrN2O
